US04329347
6-(3-Phenylsulfinyl-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[3-(phenylmercapto)-propoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[3-(phenylmercapto)-propoxy]-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCCOC=1C=C2CCC(NC2=CC1)=O | C18H19NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(3-Phenylsulfinyl-propoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C18H19NO3S
